US08008298B2
To a solution of 2,2-Dimethyl-1-[2-(4-piperazin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (0.10 g, 0.203 mmol) in dichloromethane was added 0.042 mL of diisopropylethylamine (0.031 g, 0.244 mmol) and the reaction mixture was subsequently cooled to 0° C. Methane sulfonyl chloride (0.019 mL; 0.028 g, 0.244 mmol) was added via syringe and the reaction was slowly warmed to room temperature and stirred overnight. The reaction was quenched with water and extracted 3 times with dichloromethane. Combined organics were dried over MgSO4, filtered and conc in vacuo. Silica gel chromatography (15→65% EtOAc/hexanes over 30 minutes) afforded 0.1014 g (87% yield) of 1-[2-[4-(4-Methanesulfonyl-piperazin-1-yl)-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow oil. MS (E/I): 572 (M+H).

reactant | 2,2-Dimethyl-1-[2-(4-piperazin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.203 mmol, 0.10 g | CC(C(=O)C1=CN(C2=NC=C(N=C21)C2=CC=C(C=C2)N2CCNCC2)COCC[Si](C)(C)C)(C)C | C27H39N5O2Si
reactant | diisopropylethylamine | 0.244 mmol, 0.042 mL, 0.031 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methane sulfonyl chloride | 0.244 mmol, 0.019 mL, 0.028 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[2-[4-(4-Methanesulfonyl-piperazin-1-yl)-phenyl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.1014 g, 87% yield | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C28H41N5O4SSi
